US04032559
c. 3-(Cyanoimino)-3-piperidinopropionitrile
Piperidine (25.67 g, 0.0302 m) is added dropwise to an ice-cooled solution of 41.36 g (0.0302 m) of ethyl N, 2-dicyanoacetimidate in 60 ml of methanol. The reaction is heterogeneous initially, but soon becomes homogeneous and yellow. The piperidine is added at a rate that maintains a 25° C. reaction temperature. After fifty minutes, the reaction mixture is partitioned between CH2Cl2 and aqueous saturated NaHCO3. The organic phase is dried over Na2SO4 and concentrated in vacuo to give 54 g of a yellow oil which by tlc appears to be pure product. Nmr confirms the presence of product.

reactant | Piperidine | 25.67 g | N1CCCCC1 | C5H11N
reactant | ethyl N, 2-dicyanoacetimidate | 41.36 g | C(#N)N=C(CC#N)OCC | C6H7N3O
solvent | methanol | 60 ml | CO | CH4O
product | 3-(Cyanoimino)-3-piperidinopropionitrile | 54 g | C(#N)N=C(CC#N)N1CCCCC1 | C9H12N4
